US05849732
A mixture of 5 g of {2-[3-(5-ethoxycarbonylpentyl)-3-aminoureido]-4-methoxy-6-tert-butylphenoxy}methoxymethane, 5 g of 4-chlorobenzenesulfonyl chloride, 7.24 g of triethylamine and 20 ml of chloroform was refluxed for 4 hours. The solvent was removed under reduced pressure. Ethyl acetate was added to the residue and the mixture was washed and dried, and the solvent was removed under reduced pressure to give 4 g of {2-[3-(5-ethoxycarbonylpentyl)-3-(4-chlorobenzenesulfonylamino)ureido]-4-methoxy-6-tert-butylphenoxy}methoxymethane (yield: 57%, state: oily product, IR (film): 3400, 1732, 1710, 1610, 1590 cm-1).

reactant | {2-[3-(5-ethoxycarbonylpentyl)-3-aminoureido]-4-methoxy-6-tert-butylphenoxy}methoxymethane | 5 g | C(C)OC(=O)CCCCCN(C(NC1=C(OCOC)C(=CC(=C1)OC)C(C)(C)C)=O)N | C22H37N3O6
reactant | 4-chlorobenzenesulfonyl chloride | 5 g | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
reactant | triethylamine | 7.24 g | C(C)N(CC)CC | C6H15N
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | {2-[3-(5-ethoxycarbonylpentyl)-3-(4-chlorobenzenesulfonylamino)ureido]-4-methoxy-6-tert-butylphenoxy}methoxymethane | 4 g, yield: 57% | C(C)OC(=O)CCCCCN(C(NC1=C(OCOC)C(=CC(=C1)OC)C(C)(C)C)=O)NS(=O)(=O)C1=CC=C(C=C1)Cl | C28H40ClN3O8S
